* Copyright © Linear Technology Corp. 2011.  All rights reserved.
*
.subckt LT1964-5 1 2 3 4 5
Q2 N009 N007 N013 0 NA
Q3 N007 N010 N015 0 N temp=27
C1 N007 N010 18p Rser=40K
Q4 N010 N010 N016 0 N 10 temp=27
R2 N016 2 12K
R3 N015 2 10K
Q1 N016 N004 N008 0 P temp=27
R6 1 N008 121.5K
R8 N013 2 1K
Q5 N009 N009 N006 0 P
Q6 N014 N009 1 0 P 6
R1 N014 2 450K
R9 1 N006 4K
Q7 N012 N014 2 0 NP
R7 5 N012 .7
Q8 2 N012 N007 0 P 4.5
G1 1 N007 3 1 80µ
R5 1 3 5K
A1 1 4 0 0 0 0 N002 0 SCHMITT Vt=1.9 Vh=10m Rhigh=1 Rlow=1K
A2 4 1 0 0 0 0 N002 0 SCHMITT Vt=1.4 Vh=10m Rhigh=1 Rlow=1K
G2 1 N007 N002 0 1.2µ
G3 1 N010 N002 0 1.2µ
C4 0 N002 50µ
R4 4 1 5Meg
A3 0 N001 N007 N007 N007 N007 2 N007 VARISTOR
G4 0 N001 N012 5 10m
G6 0 N001 5 2 table( 7 4.3m 10 2.5m 20 1.5m)
C6 1 5 10p
C7 1 2 10p
R13 N004 1 240K
R14 5 N004 744K
D1 0 N001 X
C2 1 N010 500p Rser=.21G Rpar=6G
S1 0 N001 0 N002 SS
.model N NPN(Cje=5p Cjc=5p BF=150)
.model P PNP(Cje=5p Cjc=5p BF=150)
.model NP NPN(Cje=50p Cjc=50p BF=50)
.model NA NPN(Cje=1p Cjc=1p BF=8K)
.model X D(Ron=1 Roff=1K)
.model SS SW(Ron=1 Roff=1G Vt=-.95 Vh=-25m)
.ends LT1964-5
*
.subckt LT1964-BYP 1 2 3 4 5
Q2 N007 N005 N011 0 NA
Q3 N005 N008 N013 0 N temp=27
C1 N005 N008 18p Rser=40K
Q4 N008 N008 N014 0 N 10 temp=27
R2 N014 2 12K
R3 N013 2 10K
Q1 N014 4 N006 0 P temp=27
R6 1 N006 121.5K
R8 N011 2 1K
Q5 N007 N007 N004 0 P
Q6 N012 N007 1 0 P 6
R1 N012 2 450K
R9 1 N004 4K
Q7 N010 N012 2 0 NP
R7 5 N010 .7
Q8 2 N010 N005 0 P 4.5
G1 1 N005 3 1 80µ
R5 1 3 5K
A1 1 2 0 0 0 0 N002 0 SCHMITT Vt=1.9 Vh=10m Rhigh=1 Rlow=1K
A2 2 1 0 0 0 0 N002 0 SCHMITT Vt=1.4 Vh=10m Rhigh=1 Rlow=1K
G2 1 N005 N002 0 1.2µ
G3 1 N008 N002 0 1.2µ
C4 0 N002 .1µ
R4 2 1 5Meg
A3 0 N009 N005 N005 N005 N005 2 N005 VARISTOR
G4 0 N009 N010 5 10m
G6 0 N009 5 2 table( 7 4.3m 10 2.5m 20 1.5m)
C5 1 4 1p
C6 1 5 10p
C7 1 2 10p
D1 0 N009 X
C2 1 N008 500p Rser=.21G Rpar=6G
S1 1 N008 0 N002 SS
.model N NPN(Cje=5p Cjc=5p BF=150)
.model P PNP(Cje=5p Cjc=5p BF=150)
.model NP NPN(Cje=50p Cjc=50p BF=50)
.model NA NPN(Cje=1p Cjc=1p BF=8K)
.model X D(Ron=1 Roff=1K)
.model SS SW(Ron=10K Roff=1T Vt=-.5 Vh=-.4)
.ends LT1964-BYP
*
.subckt LT1964-SD 1 2 3 4 5
Q2 N007 N010 N008 0 NA
Q3 N010 N012 N011 0 N temp=27
C1 N010 N012 18p Rser=40K
Q4 N012 N012 N013 0 N 10 temp=27
R2 N013 2 12K
R3 N011 2 10K
Q1 N013 4 N014 0 P temp=27
R6 1 N014 121.5K
R8 N008 2 1K
Q5 N007 N007 N006 0 P
Q6 N005 N007 1 0 P 6
R1 N005 2 450K
R9 1 N006 4K
Q7 N004 N005 2 0 NP
R7 5 N004 .7
Q8 2 N004 N010 0 P 4.5
A1 1 3 0 0 0 0 N009 0 SCHMITT Vt=1.9 Vh=10m Rhigh=1 Rlow=1K
A2 3 1 0 0 0 0 N009 0 SCHMITT Vt=1.4 Vh=10m Rhigh=1 Rlow=1K
G2 1 N010 N009 0 1.2µ
G3 1 N012 N009 0 1.2µ
C4 0 N009 50µ
R4 3 1 5Meg
A3 0 N003 N010 N010 N010 N010 2 N010 VARISTOR
G4 0 N003 N004 5 10m
G6 0 N003 5 2 table( 7 4.3m 10 2.5m 20 1.5m)
C5 1 4 1p
C6 1 5 10p
C7 1 2 10p
D1 0 N003 X
C2 1 N012 500p Rser=.21G Rpar=6G
S1 0 N003 0 N009 SS
.model N NPN(Cje=5p Cjc=5p BF=150)
.model P PNP(Cje=5p Cjc=5p BF=150)
.model NP NPN(Cje=50p Cjc=50p BF=50)
.model NA NPN(Cje=1p Cjc=1p BF=8K)
.model X D(Ron=1 Roff=1K)
.model SS SW(Ron=1 Roff=1G Vt=-.95 Vh=-25m)
.ends LT1964-SD
